US08809342B2
To a 0° C. solution of methyl 6-((4′-(trifluoromethyl)biphenyl-4-yl)methyleneamino)nicotinate (600 mg, 1.56 mmol) in tetrahydrofuran (10 mL) was added cyclopropylmagnesium bromide (5 mL, 2N in THF, 8 mmol). The reaction was stirred at 0° C. for 1 hr, then warmed to room temperature and left stirring for 12 h. The reaction was quenched with saturated ammonium chloride and extracted with ethyl acetate (3×15 mL). The combined organics were dried over sodium sulfate, filtered and concentrated. Purification by preparative TLC (5:1 petroleum ether:ethyl acetate) gave methyl 6-(cyclopropyl(4′-(trifluoromethyl)biphenyl-4-yl)methylamino)nicotinate (130 mg).

reactant | methyl 6-((4′-(trifluoromethyl)biphenyl-4-yl)methyleneamino)nicotinate | 1.56 mmol, 600 mg | FC(C1=CC=C(C=C1)C1=CC=C(C=C1)C=NC1=NC=C(C(=O)OC)C=C1)(F)F | C21H15F3N2O2
reactant | cyclopropylmagnesium bromide | 8 mmol, 2N, 5 mL | C1(CC1)[Mg]Br
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | methyl 6-(cyclopropyl(4′-(trifluoromethyl)biphenyl-4-yl)methylamino)nicotinate | 130 mg | C1(CC1)N(C1=NC=C(C(=O)OC)C=C1)CC1=CC=C(C=C1)C1=CC=C(C=C1)C(F)(F)F | C24H21F3N2O2
